US07635701B2
2-(2-Methyl-4-chloro-phenylamino)-4-trifluoromethyl-pyrimidine-5-carboxylic acid cyclobutylmethyl-amide
To a solution of 2-chloro-4-trifluoromethyl-pyrimidin-5-carboxylic acid cyclobutylmethyl-amide (50 mg) in 1,4-dioxan (1.0 ml) was added 2-methyl-4-chloroaniline (120 mg) and the solution heated at 180° C. under microwave irrdiation for 30×2 minutes. The residue was dissolved in 1:1 DMSO:methanol (11.0 ml) and purified by Mass Directed Auto-Purification to afford the title compound (36 mg).

reactant | 2-chloro-4-trifluoromethyl-pyrimidin-5-carboxylic acid cyclobutylmethyl-amide | 50 mg | C1(CCC1)CNC(=O)C=1C(=NC(=NC1)Cl)C(F)(F)F | C11H11ClF3N3O
reactant | 2-methyl-4-chloroaniline | 120 mg | CC1=C(N)C=CC(=C1)Cl | C7H8ClN
solvent | 1,4-dioxan | 1.0 ml | O1CCOCC1 | C4H8O2
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-(2-Methyl-4-chloro-phenylamino)-4-trifluoromethyl-pyrimidine-5-carboxylic acid cyclobutylmethyl-amide | 36 mg | C1(CCC1)CNC(=O)C=1C(=NC(=NC1)NC1=C(C=C(C=C1)Cl)C)C(F)(F)F | C18H18ClF3N4O
